US07361759B2
To the ethyl acetate solution of 5-deoxy-L-arabinose phenylhydrazone obtained in the step (3) of the preceding example, 9.0 g (0.074 mol) of 4-dimethylaminopyridine (DMAP) was added and dissolved therein. Then 120.82 g (1.183 mol) of acetic anhydride was added by dripping to the solution at an ambient temperature of 10° C. After stirring overnight at the same ambient temperature, 250 me of water was added to the solution, which was then stirred for 30 minutes. After allowing the solution to stand, it was separated into a water layer and an organic layer, and a 20% aqueous solution of sodium hydroxide was added to the organic layer up to its neutralization. Then after allowing the solution to stand, its organic layer was separated out and dried over anhydrous sodium sulfate. When the thus treated ethyl acetate solution was subjected to vacuum concentration, an ethyl acetate solution of triacetoxy-5-deoxy-L-arabinose phenylhydrazone was obtained.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 5-deoxy-L-arabinose phenylhydrazone | C1(=CC=CC=C1)NN=C[C@H](O)[C@@H](O)[C@@H](O)C | C11H16N2O3
reactant | acetic anhydride | 1.183 mol, 120.82 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.074 mol, 9.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | triacetoxy-5-deoxy-L-arabinose phenylhydrazone | C1(=CC=CC=C1)NN=C[C@H](O)[C@@H](O)[C@@H](O)C(OC(C)=O)(OC(C)=O)OC(C)=O | C17H22N2O9
